US05455351
G. (3R,5S)-3-Benzyl-5-(((trifluoromethyl)sulfonyl)oxymethyl)dihydrofuran-2(3H)-one
A solution of 4.47 g (21.6 mmol) of (3R,5S)-3-benzyl-5-(hydroxymethyl)dihydrofuran-2(3H)-one and 3.27 ml (28.1 mmol) of 2,6-lutidine in 100 ml of dichloromethane was cooled in an ice-salt bath (-5° C.) and treated dropwise over 30 min with 3.99 ml (23.8 mmol) of trifluoromethanesulfonic anhydride. The resulting solution was stirred at -5° C. for 1 h, poured over ice/brine, and extracted in three 200 ml portions of chloroform. The combined organic layers were washed with 1 N HCl, aqueous NaHCO3 and saturated brine, dried over MgSO4, and concentrated in vacuo. Silica gel chromatography of the residue using first 10% then 25% ethyl acetate in hexane provided 4.61 g (63%) of the desired compound as a white solid.

reactant | (3R,5S)-3-benzyl-5-(hydroxymethyl)dihydrofuran-2(3H)-one | 21.6 mmol, 4.47 g | C(C1=CC=CC=C1)[C@H]1C(O[C@@H](C1)CO)=O | C12H14O3
reactant | 2,6-lutidine | 28.1 mmol, 3.27 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 23.8 mmol, 3.99 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (3R,5S)-3-Benzyl-5-(((trifluoromethyl)sulfonyl)oxymethyl)dihydrofuran-2(3H)-one | 4.61 g, 63% | C(C1=CC=CC=C1)[C@H]1C(O[C@@H](C1)COS(=O)(=O)C(F)(F)F)=O | C13H13F3O5S
